US06562828B1
7-[1-(Pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide
To a solution of ammonium isothiocyanate (220 mg) in acetone (4.5 ml) was dropwise added benzoyl chloride (0.32 ml) at room temperature, and the mixture was stirred at 75° C. for 10 min. Then, a mixture of 7-[1-(pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline (850 mg) in acetone (4.5 ml) and methylene chloride (4.5 ml) was added dropwise, and the mixture was stirred at the same temperature for 1 hour. After completion of the reaction, the solvent was evaporated and water was added. The mixture was extracted with chloroform. The organic layer was washed successively with water and saturated brine and dried over anhydrous sodium sulfate, and the solvent was evaporated. To the obtained residue was added conc. hydrochloric acid (10 ml), and the mixture was stirred under reflux for 1 hour. After completion of the reaction, water was added and the mixture was washed successively with ethyl acetate and chloroform. The aqueous layer was concentrated and the resultant residue was dissolved in water and ethanol, and neutralized with ion-exchange resin (IRA-410). This was filtrated and the filtrate was concentrated. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:1-20:1) and dried under reduced pressure to give the title compound (450 mg).

reactant | ammonium isothiocyanate | 220 mg | [N-]=C=S.[NH4+]
reactant | benzoyl chloride | 0.32 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 7-[1-(pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline | 850 mg | N1=CC=C(C=C1)N1CCC(CC1)COC1=CC=C2CCNCC2=C1 | C20H25N3O
solvent | acetone | 4.5 ml | CC(=O)C | C3H6O
solvent | acetone | 4.5 ml | CC(=O)C | C3H6O
solvent | methylene chloride | 4.5 ml | C(Cl)Cl | CH2Cl2
product | 7-[1-(Pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide | 450 mg | N1=CC=C(C=C1)N1CCC(CC1)COC1=CC=C2CCN(CC2=C1)C(N)=S | C21H26N4OS
